US04923892
(c) (Z)-11-(3-(Dimethylamino)propylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylic acid (Compound 1)
A solution of n-butyl lithium in hexane (1.6M, 3.5 mL) was added dropwise to a solution of 1.8 g. pure (Z)-3-(2-bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine in 100 mL of dry tetrahydrofuran at -70° C. under a nitrogen atmosphere. After the yellowish-orange solution was stirred at -70° C. for 10 minutes, gaseous carbon dioxide was bubbled through the reaction medium to give a pale yellow solution. The solution was allowed to warm gradually to room temperature and was then concentrated under reduced pressure. The foamy residue was dissolved in water, and the mixture was neutralized with 1N hydrochloric acid and then extracted with chloroform. Concentration of the chloroform and recrystallization of the residue from water gave 0.5 g. pure Z-2-carboxylic acid, m.p. 121°-123° C. pmr (CDCl3) δ: 7.87 (d, J≤1 Hz, 1H, H1), 7.81 (dd, J=7.8, 2.2 Hz, 1H, H3), 7.25-7.28 (m, 4H, aromatic), 6.82 (degenerate d, J=8.8 Hz, 1H, H4), 6.45 (br s, 1H, CO2H), 5.50 (m, 1H, CH=), 5.20 (br, s, 2H, CH2O), 2.92 (m, 4H, NCH2CH2), 2.66 (s, 6H, NMe2).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | (Z)-3-(2-bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine | BrC1=CC\2=C(OCC3=C(/C2=C/CCN(C)C)C=CC=C3)C=C1 | C19H20BrNO
reactant | CH2O | C=O | CH2O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 3.5 mL | CCCCCC | C6H14
product | (Z)-11-(3-(Dimethylamino)propylidene)-6,11-dihydrodibenz[b,e]oxepin-2-carboxylic acid | CN(CC\C=C\1/C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O)C | C20H21NO3
